US08293911B2
Step C: N-[2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethyl-thiobutanamide
To a solution of N-[2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethyl-butyramide (200 mg, 0.48 mmol) in dichloroethane (10 mL) was added Lawesson's reagent (193 mg, 0.48 mmol) and the reaction mixture was stirred at reflux for 2 h. The mixture was then cooled to room temperature and concentrate. Purification by preparative thin layer chromatography (dichloromethane 100%) afforded the desired compound as a solid.

reactant | N-[2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethyl-butyramide | 0.48 mmol, 200 mg | CC1=C(C(=CC(=C1)N1CC2=CC=C(C=C2CC1)C(F)(F)F)C)NC(CC(C)(C)C)=O | C24H29F3N2O
reactant | Lawesson's reagent | 0.48 mmol, 193 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | N-[2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethyl-thiobutanamide | CC1=C(C(=CC(=C1)N1CC2=CC=C(C=C2CC1)C(F)(F)F)C)NC(CC(C)(C)C)=S | C24H29F3N2S
